US09108934B2
Preparation 10: 5-Hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carboxylic Acid
To a suspension of 5-hydroxy-1-pyridin-2-yl-1h-pyrazole-3-carboxylic acid ethyl ester (351.6 mg, 1.5 mmol) in MeOH (5.0 mL, 120 mmol) at room temperature was added LiOH monohydrate (126.5 mg, 3.0 mmol), forming a clear solution. The solution was stirred at room temperature overnight. The solution was then concentrated. To the resulting residue was added 1N aqueous HCl to achieve pH˜2, forming a precipitate. Water (4.0 mL) was added and the resulting mixture was stirred at room temperature for 1 hour, then filtered. The solids were rinsed with water and dried under vacuum to yield the title compounds as a white solid (128 mg).

reactant | 5-hydroxy-1-pyridin-2-yl-1h-pyrazole-3-carboxylic acid ethyl ester | 1.5 mmol, 351.6 mg | C(C)OC(=O)C1=NN(C(=C1)O)C1=NC=CC=C1 | C11H11N3O3
reactant | MeOH | 120 mmol, 5.0 mL | CO | CH4O
solvent | Water | 4.0 mL | O | H2O
product | 5-Hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carboxylic Acid | 128 mg | OC1=CC(=NN1C1=NC=CC=C1)C(=O)O | C9H7N3O3
